US06960664B2
N-[(1S,2R)-3-(2-benzoyl-1-ethylhydrazino)-1-benzyl-2-hydroxypropyl]-2-[(methylsulfonyl)amino]-1,3-thiazole-4-carboxamide:
Synthesized as described above from tert-butyl 2-((2R,3S)-3-amino-2-hydroxy-4-phenylbutyl)-2-ethylhydrazinecarboxylate, benzoic acid and 2-methanesulfonylamino-thiazole-4-carboxylic acid. MS (ESI+) for C24H29N5O5S2 m/z 532.7 (M+H)+.

reactant | tert-butyl 2-((2R,3S)-3-amino-2-hydroxy-4-phenylbutyl)-2-ethylhydrazinecarboxylate | N[C@H]([C@@H](CN(NC(=O)OC(C)(C)C)CC)O)CC1=CC=CC=C1 | C17H29N3O3
reactant | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | 2-methanesulfonylamino-thiazole-4-carboxylic acid | CS(=O)(=O)NC=1SC=C(N1)C(=O)O | C5H6N2O4S2
product | N-[(1S,2R)-3-(2-benzoyl-1-ethylhydrazino)-1-benzyl-2-hydroxypropyl]-2-[(methylsulfonyl)amino]-1,3-thiazole-4-carboxamide | C(C1=CC=CC=C1)(=O)NN(CC)C[C@H]([C@H](CC1=CC=CC=C1)NC(=O)C=1N=C(SC1)NS(=O)(=O)C)O | C24H29N5O5S2
